US04207341
For the preparation of ethyl 2-[4-(2-aminoethyl)-phenyl]-butyrate hydrochloride, ethyl 2-phenylbutyrate is chloromethylated and the ethyl 2-(p-chloromethylphenyl)-butyrate obtained (b.p. 117°-123° C./0.2 mm Hg) is reacted with potassium cyanide in acetone to give ethyl 2-(p-cyanomethylphenyl)-butyrate (b.p. 156°-160° C./0.3 mm Hg). By the catalytic hydrogenation of the nitrile group in the presence of a palladium/charcoal catalyst in alcoholic hydrochloric acid solution, there is obtained ethyl 2-[4-(2-aminoethyl)-phenyl]-butyrate hydrochloride, which does not crystallize.

reactant | ethyl 2-[4-(2-aminoethyl)-phenyl]-butyrate hydrochloride | Cl.NCCC1=CC=C(C=C1)C(C(=O)OCC)CC
reactant | ethyl 2-phenylbutyrate | C1(=CC=CC=C1)C(C(=O)OCC)CC | C12H16O2
product | ethyl 2-(p-chloromethylphenyl)-butyrate | ClCC1=CC=C(C=C1)C(C(=O)OCC)CC | C13H17ClO2
